US07285558B2
5-[2-[(6-chloro-4-quinolinyl)methyl]-7-(cyclopropylmethyl)-4,5,6,7-tetrahydro-5-methyl-4,6-dioxo-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carbonitrile
This compound was made following the procedure described above, startng with 1-(cyclopropylmethyl)-6-hydrazino-3-methylpyrimidine-2,4(1H,3H)-dione synthesized according to the procedure used in example 1 for the corresponding isobutyl substituted compound, and condensing first with 6-chloroquinoline-4-carbaldehyde, followed by 5-formyl-1-methyl-1H-pyrrole-3-carbonitrile. Mass: 500.11 (M+H).

reactant | 1-(cyclopropylmethyl)-6-hydrazino-3-methylpyrimidine-2,4(1H,3H)-dione | C1(CC1)CN1C(N(C(C=C1NN)=O)C)=O | C9H14N4O2
reactant | 6-chloroquinoline-4-carbaldehyde | ClC=1C=C2C(=CC=NC2=CC1)C=O | C10H6ClNO
reactant | 5-formyl-1-methyl-1H-pyrrole-3-carbonitrile | C(=O)C1=CC(=CN1C)C#N | C7H6N2O
product | 5-[2-[(6-chloro-4-quinolinyl)methyl]-7-(cyclopropylmethyl)-4,5,6,7-tetrahydro-5-methyl-4,6-dioxo-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carbonitrile | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=CC(=CN1C)C#N)=O)C)=O)CC1CC1 | C26H22ClN7O2
